US07855194B2
Step 1: 4-(4-Phenyl-pteridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-chloro-4-phenyl-pteridine (0.33 g, 1.36 mmol, 1.0 equiv; commercially available from Specs Research Laboratory, The Netherlands), 4-amino-piperidine-1-carboxylic acid tert-butyl ester (0.41 g, 2.04 mmol, 1.5 equiv; commercially available) and triethylamine (0.28 mL, 0.21 g, 2.04 mmol, 1.5 equiv) in anhydrous DMAc (2 mL) and acetonitrile (9 mL) was heated by microwave irradiation to 120° C. for 20 min. The organic phase was concentrated under reduced pressure and the crude material purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 0.5 g (91%) of the title compound. MS (ISP): 407.4 [M+H]+.

reactant | 2-chloro-4-phenyl-pteridine | ClC1=NC2=NC=CN=C2C(=N1)C1=CC=CC=C1 | C12H7ClN4
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 2.04 mmol, 0.28 mL, 0.21 g, 1.5 equiv | C(C)N(CC)CC | C6H15N
solvent | DMAc | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | acetonitrile | 9 mL | C(C)#N | C2H3N
product | 4-(4-Phenyl-pteridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=NC=CN=C2C(=N1)C1=CC=CC=C1 | C22H26N6O2
